US08067445B2
Step 2: {2′-[3-(4-Chloro-benzyl)-1-ethyl-ureidomethyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid
To {2′-[3-(4-chloro-benzyl)-1-ethyl-ureidomethyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester (0.196 g, 0.35 mmol) in THF (2 mL) and MeOH (2 mL) was added 1N aqueous LiOH (2 mL), and the reaction was stirred at room temperature for 2 hours. The mixture was acidified with 1N aqueous HCl and extracted three times with EtOAc, and the combined organic layers were dried and concentrated. The residue was purified by preparative HPLC to give the title compound. M+H is 535.

reactant | {2′-[3-(4-chloro-benzyl)-1-ethyl-ureidomethyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester | 0.35 mmol, 0.196 g | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NCC1=CC=C(C=C1)Cl)CC)=O | C29H30ClF3N2O4
reactant | LiOH | 1N, 2 mL | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2 mL | CO | CH4O
product | {2′-[3-(4-Chloro-benzyl)-1-ethyl-ureidomethyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid | ClC1=CC=C(CNC(N(CC)CC2=C(C=CC(=C2)C(F)(F)F)C2=CC(=CC=C2OC)CC(=O)O)=O)C=C1 | C27H26ClF3N2O4
